US07220775B2
2-[4-(4-BROMOPHENYL)-1-PIPERAZINYL]-N4-(3-METHOXYPHENYL)-N6,N6-DIMETHYL-4,6-PYRIMIDINEDIAMINE
A mixture of N4-(3-methoxyphenyl)-N6,N6-dimethyl-2-(1-piperazinyl)-4,6-pyrimidinediamine (36 mg, 0.1 mmol), 1-bromo-4-fluorobenzene (20 mg, 0.13 mmol) was heated at 100° C. for 1 h. The crude product was dissolved in CH2Cl2 (0.5 mL) and purified by preparative TLC using 5% methanol in EtOAc, giving the desired product (20 mg, 40%).

reactant | N4-(3-methoxyphenyl)-N6,N6-dimethyl-2-(1-piperazinyl)-4,6-pyrimidinediamine | 0.1 mmol, 36 mg | COC=1C=C(C=CC1)NC1=NC(=NC(=C1)N(C)C)N1CCNCC1 | C17H24N6O
reactant | 1-bromo-4-fluorobenzene | 0.13 mmol, 20 mg | BrC1=CC=C(C=C1)F | C6H4BrF
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-(4-BROMOPHENYL)-1-PIPERAZINYL]-N4-(3-METHOXYPHENYL)-N6,N6-DIMETHYL-4,6-PYRIMIDINEDIAMINE | 20 mg, 40% | BrC1=CC=C(C=C1)N1CCN(CC1)C1=NC(=CC(=N1)NC1=CC(=CC=C1)OC)N(C)C | C23H27BrN6O
